US07462639B2
Pyridine-2-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Pyridine-2-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and picolinic acid (109 mg, 0.89 mmol). The title compound was obtained as orange powder (121 mg, 36%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | picolinic acid | 0.89 mmol, 109 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
product | Pyridine-2-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(=O)C3=NC=CC=C3)(C)C)=O | C22H21N7O2
